US05292749
(R)-3-Quinuclidinyl (RS)-2-phenyl-3-(pyridin-2-yl)propanoate
A mixture of (R)-3-quinuclidinyl 2-phenylacetate (see Preparation 9) 1.23 g) and sodium hydride (165 mg of an 80% dispersion in oil) in dimethylformamide (10 ml) was stirred for 1/4 hour, treated with 2-picolyl chloride (0.64 g), stirred for 24 hours then partitioned between ethyl acetate and 10% aqueous potassium carbonate. The organic layer was dried over magnesium sulphate and the residue, after evaporation, was purified by chromatography on silica gel by gradient elution using chloroform plus methanol (0→10%) and aqueous ammonia (0→1%). Appropriate fractions were combined and evaporated to give the title compound as an oil (605 mg, 36%).

reactant | (R)-3-quinuclidinyl 2-phenylacetate | 1.23 g | C1(=CC=CC=C1)CC(=O)O[C@H]1CN2CCC1CC2 | C15H19NO2
reactant | sodium hydride | [H-].[Na+]
reactant | 2-picolyl chloride | 0.64 g | N1=C(C=CC=C1)CCl | C6H6ClN
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (R)-3-Quinuclidinyl (RS)-2-phenyl-3-(pyridin-2-yl)propanoate | 605 mg, 36% | C1(=CC=CC=C1)C(C(=O)O[C@H]1CN2CCC1CC2)CC2=NC=CC=C2 | C21H24N2O2
